US07700306B2
Synthesis of 6-(cyanoacetamido) hexanoic acid
2.8 g (20 mmol) potassium hydrogen carbonate were added to 8.3 g (40 mmol) 6-(chloracetamido) hexanoic acid dissolved in 25 ml water. 3.2 g (48 mmol) potassium cyanide was then added to the clear solution which was cooled on ice. The reaction mixture was stirred for 17 hours and was then acidified with HCl (2N). The residue after extraction was purified by chromatography (silica gel, solvent: ethyl acetate).

reactant | potassium hydrogen carbonate | 20 mmol, 2.8 g | C(O)([O-])=O.[K+]
reactant | 6-(chloracetamido) hexanoic acid | 40 mmol, 8.3 g | ClCC(=O)NCCCCCC(=O)O | C8H14ClNO3
reactant | potassium cyanide | 48 mmol, 3.2 g | [C-]#N.[K+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 6-(cyanoacetamido) hexanoic acid | C(#N)CC(=O)NCCCCCC(=O)O | C9H14N2O3
